US07157604B2
A mixture of crude 7-amino-8-bromo-9a-ethyl-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (0.97 g, 3.02 mmol), CuCN (0.318 g, 3.55 mmol), and 1-methyl-2-pyrrolidinone (NMP, 6 mL) was placed under a N2 atmosphere, stirred, and heated in an oil bath at 160–170° C. for 5.5 hours. After cooling to room temperature, the mixture was added to EtOAc (200 mL) and water (200 mL) and filtered through a pad of solka-floc. The organic portion of the filtrate was washed with water (5×200 mL) and brine (100 mL), dried over MgSO4, filtered, and evaporated under vacuum to a red oil (0.8 g). The crude product was purified by chromatography on EM silica gel 60 (2.75×25 cm column), eluting with 5% EtOAc in CH2Cl2, to afford 7-amino-8-cyano-9a-ethyl-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (0.48 g) as a solid.

reactant | 7-amino-8-bromo-9a-ethyl-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 3.02 mmol, 0.97 g | NC1=CC=C2C3=C(C(CCC3(CC2=C1Br)CC)=O)C | C16H18BrNO
reactant | CuCN | 3.55 mmol, 0.318 g | C(#N)[Cu]
reactant | 1-methyl-2-pyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
product | 7-amino-8-cyano-9a-ethyl-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.48 g | NC1=CC=C2C3=C(C(CCC3(CC2=C1C#N)CC)=O)C | C17H18N2O
